US06596772B1
N-(2-Ethylamino-5-trifluoromethanesulfonyl-phenyl)-2-(4-methanesulfonyl-phenyl)-acetamide (25).
To a solution of 4-methylsulfonylphenylacetic acid (100 mg, 0.467 mmol) in acetonitrile was added 1-hydroxybenzotriazole (76 mg, 0.56 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carboiimide hydrochloride (108 mg, 0.56 mmol), triethylamine (0.143 mL, 1.03 mmol) and N1-ethyl-4-[(trifluoromethyl)sulfonyl]benzene-1,2-diamine (125 mg, 0.467 mmol). The mixture was stirred at room temperature for overnight. The reaction was extracted with ethyl acetate, washed with water and brine, dried, concentrated and recrystallized from ethyl acetate to give the title compound. 1H NMR (300 MHz, DMSO-d6) δ9.54 (br s, 1H, NH), 7.88 (d, J=8.3 Hz, 2H), 7.75 (d, J=2.1 Hz, 1H), 7.64 (dd, 1H), 7.61 (d, J=8.3 Hz, 2H), 6.90 (d, J=9.0 Hz, 1H), 6.70 (t, J=5.2 Hz, 1H, NH), 3.86 (s, 2H, CH2), 3.31 (s, 3H, CH3), 3.29 (m, 2H, NCH2CH3), 1.20 (t, J=7.1 Hz, 3H, NCH2CH3). MS 465 [M++1].

reactant | 4-methylsulfonylphenylacetic acid | 0.467 mmol, 100 mg | CS(=O)(=O)C1=CC=C(C=C1)CC(=O)O | C9H10O4S
reactant | 1-hydroxybenzotriazole | 0.56 mmol, 76 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 1.03 mmol, 0.143 mL | C(C)N(CC)CC | C6H15N
reactant | N1-ethyl-4-[(trifluoromethyl)sulfonyl]benzene-1,2-diamine | 0.467 mmol, 125 mg | C(C)NC=1C(=CC(=CC1)S(=O)(=O)C(F)(F)F)N | C9H11F3N2O2S
solvent | acetonitrile | C(C)#N | C2H3N
product | N-(2-Ethylamino-5-trifluoromethanesulfonyl-phenyl)-2-(4-methanesulfonyl-phenyl)-acetamide | C(C)NC1=C(C=C(C=C1)S(=O)(=O)C(F)(F)F)NC(CC1=CC=C(C=C1)S(=O)(=O)C)=O | C18H19F3N2O5S2
